US04128658
N-Cyano-N'-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N"-methylguanidine
A solution of N'-cyano-N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]carbamimidothioic acid, methyl ester (1.06 g) in ethanolic methylamine 33% (10 ml) was stirred at room temperature for 4 hr. The solution was evaporated to dryness and the oily residue crystallised from ethyl acetate-light petroleum (b.p. 80°-100°) to give the title compound m.p. 77°-80°.

reactant | N'-cyano-N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]carbamimidothioic acid, methyl ester | 1.06 g | C(#N)N=C(NCCSCC=1OC(=CC1)CN(C)C)SC | C13H20N4OS2
reactant | methylamine | 10 ml | CN | CH5N
product | N-Cyano-N'-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N"-methylguanidine | C(#N)NC(=NC)NCCSCC=1OC(=CC1)CN(C)C | C13H21N5OS
